US04582617
A lithium hydroxystearate grease thickener was prepared by saponification of a mixture containing about 8% by weight of 12-hydroxystearic acid and 9% by weight of the glyceride thereof, with lithium hydroxide monohydrate (2.5%) in a mineral oil vehicle (about 76%) at about 177° C. and final pressure of about 110 psig in a closed contactor. All percentages were percentages by weight of the total weight of the thickener.

reactant | 12-hydroxystearic acid | OC(CCCCCCCCCCC(=O)O)CCCCCC | C18H36O3
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
product | lithium hydroxystearate | OC(C(=O)[O-])CCCCCCCCCCCCCCCC.[Li+] | InChI=1S/C18H36O3.Li/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17(19)18(20)21;/h17,19H,2-16H2,1H3,(H,20,21);/q;+1/p-1
